US05296003
Preparation of 2,2-Di(decanoyloxymethyl)propionic Acid
n-Decanoyl chloride (23.6 mL) was combined with 5.0 grams of 2,2-bis(hydroxymethyl)propionic acid and 100 mL of chloroform (filtered through activity I basic alumina). Triethylamine (17.1 mL) and 4-dimethylaminopyridine (2.28 grams) were then added and the resulting mixture was heated at reflux under nitrogen for 16 hours. The reaction was then cooled to room temperature and quenched with 200 mL of water. The solution was cooled to 0° C. and acidified to pH 3 with concentrated aqueous hydrochloric acid. The solution was extracted three times with methylene chloride and the combined methylene chloride layers were washed once with 1% aqueous hydrochloric acid and once with saturated aqueous sodium chloride. The organic layer was then dried over anhydrous magnesium sulfate, filtered and the solvents removed in vacuo to yield 26.01 grams of a mixture of a yellow oil and solid. The mixture was chromatographed on silica gel eluting with hexane/ethyl acetate/acetic acid (95:4:1) to yield 20.6 grams of the desired product as a light yellow oil.

reactant | n-Decanoyl chloride | 23.6 mL | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | 2,2-bis(hydroxymethyl)propionic acid | 5.0 grams | OCC(C(=O)O)(C)CO | C5H10O4
reactant | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 2.28 grams | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Triethylamine | 17.1 mL | C(C)N(CC)CC | C6H15N
product | 2,2-Di(decanoyloxymethyl)propionic Acid | 26.01 grams | C(CCCCCCCCC)(=O)OCC(C(=O)O)(C)COC(CCCCCCCCC)=O | C25H46O6
